US05218000
N-(2-Methoxyphenylacetyl)-spermine
According to the General Procedure using 2-methoxyphenylacetic acid (81 mg. 0.49 mMol), dicyclohexylcarbodiimide (53 mg, 0.26 mMol), and spermine (201 mg, 0.99 mMol) in DME (4 ml), activation during 2.5 h and coupling over 48 h. The produce was eluted over silica gel with the lower layer of dichloromethane/methanol/0.880 ammonia solution (2:1:1). The desired amide was in fractions 6-10 and was homogeneous when monitored by tlc on silica (CH2Cl2 /MeOH/NH4OH lower layer, 2:1:1), Rf =0.25, (28 mg, 31%), lyophilisation gave 16 mg of a colourless, viscous oil whose spectroscopic data include: pmr (90 MHz, 2H2O) 1.35-1.85 (m, 8H, 4×CH2 --CH2), 2.4-2.9 (m, 10H, 5×CH2 --N), 3.25 (t, J=7, 2H, CON2H--CH2 --CH2), 3.5 (s, 2H, Ar--CH2 --CO), 3.83(s, 3H, OCH3), 6.75-7.05 (m, 2H, 2×ArH 3,5), and 7.15-7.35 (m, 2H, 2×ArH 4,6)ppm.

reactant | 2-methoxyphenylacetic acid | 0.49 mMol, 81 mg | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | dicyclohexylcarbodiimide | 0.26 mMol, 53 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | spermine | 0.99 mMol, 201 mg | NCCCNCCCCNCCCN | C10H26N4
solvent | DME | 4 ml | COCCOC | C4H10O2
product | N-(2-Methoxyphenylacetyl)-spermine | COC1=C(C=CC=C1)CC(=O)NCCCNCCCCNCCCN | C19H34N4O2
